US07196080B2
N-Benzyliminodiacetic acid was reacted with CDI and 5-aminoindole in THF to obtain 4-benzyl-1-(1H-indol-5-yl)piperazine-2,6-dione, which was then reacted with lithium aluminum hydride in THF. Conc. hydrochloric acid and palladium hydroxide were added to an ethanol solution of thus obtained compound and the whole was reacted under a hydrogen atmosphere of 3 atm for 65 hours to obtain an objective compound.

reactant | N-Benzyliminodiacetic acid | C(C1=CC=CC=C1)N(CC(=O)O)CC(=O)O | C11H13NO4
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-aminoindole | NC=1C=C2C=CNC2=CC1 | C8H8N2
solvent | THF | C1CCOC1 | C4H8O
product | 4-benzyl-1-(1H-indol-5-yl)piperazine-2,6-dione | C(C1=CC=CC=C1)N1CC(N(C(C1)=O)C=1C=C2C=CNC2=CC1)=O | C19H17N3O2
